US04954518
2.55 ml of acetic anhydride was added to 850 mg of ethyl 2-(2-hydroxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetate and 540 mg of sodium acetate. The mixture was stirred for 10 minutes at 110°-120° C. The reaction mixture was introduced into a mixture of 20 ml of ethyl acetate and 20 ml of water. The resulting mixture was adjusted to pH 2 with 2N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was purified by a column chromatography (eluant: a 5 : 1 mixture of toluene and ethyl acetate) to obtain 550 mg (yield: 55.6%) of 7-(N-acetyl-N-methylsulfonylamino)-3-ethoxycarbonyl-2-methyl-6-phenoxy-4H-1-benzopyran-4-one.

reactant | acetic anhydride | 2.55 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl 2-(2-hydroxy-4-methylsulfonylamino-5-phenoxybenzoyl)acetate | 850 mg | OC1=C(C(=O)CC(=O)OCC)C=C(C(=C1)NS(=O)(=O)C)OC1=CC=CC=C1 | C18H19NO7S
reactant | sodium acetate | 540 mg | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 7-(N-acetyl-N-methylsulfonylamino)-3-ethoxycarbonyl-2-methyl-6-phenoxy-4H-1-benzopyran-4-one | 550 mg, yield: 55.6% | C(C)(=O)N(S(=O)(=O)C)C1=CC2=C(C(C(=C(O2)C)C(=O)OCC)=O)C=C1OC1=CC=CC=C1 | C22H21NO8S
